US06673804B1
(2) (±)-2-[2-(3,7-Dimethylxanthin-1-yl)ethyl]-N-methyl-N-(4-phenoxybenzene-sulfonyl)glycine Allyl Ester
After addition of 3,7-dimethylxanthin (1.10 g, 6.1 mmol) to a suspension of sodium hydride (60%, 0.24 g, 6.0 mmol) in N,N-dimethylformamide (20 ml), the mixture was stirred at 50° C. for 2 hours. After cooling it to room temperature, a solution of (±)-2-(2-bromoethyl)-N-methyl-N-(4-phenoxybenzenesulfonyl)glycine allyl ester (2.34 g, 5.0 mmol) in N,N-dimethylformamide (10 ml) was added to the reaction mixture. This was heated at 80° C. for 2 hours. After cooling it to room temperature, a saturated aqueous solution of ammonium chloride was added and then this was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate 3/1 as the eluant to afford the desired compound (0.86 g, yield 30%) as a colorless amorphous solid.

reactant | 3,7-dimethylxanthin | 6.1 mmol, 1.10 g | CN1C(NC(C=2N(C=NC12)C)=O)=O | C7H8N4O2
reactant | sodium hydride | 6.0 mmol, 0.24 g | [H-].[Na+]
reactant | (±)-2-(2-bromoethyl)-N-methyl-N-(4-phenoxybenzenesulfonyl)glycine allyl ester | 5.0 mmol, 2.34 g | C(C=C)OC(C(N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)C)CCBr)=O | C20H22BrNO5S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (±)-2-[2-(3,7-Dimethylxanthin-1-yl)ethyl]-N-methyl-N-(4-phenoxybenzene-sulfonyl)glycine Allyl Ester | 0.86 g, yield 30% | C(C=C)OC(C(N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)C)CCN1C(=O)N(C=2N=CN(C2C1=O)C)C)=O | C27H29N5O7S
